US07635715B2
Step C: Preparation of 2-(4-Chloro-2-iodophenyl)propanenitrile
2-(4-Chloro-2-iodophenyl)acetonitrile (1.070 g, 3.9 mmol) was dissolved in THF (50 mL) and cooled to 0° C. Sodium tert-butoxide (0.74 g, 7.7 mmol) was added, and the solution was stirred for 10 minutes (the reaction color changed from colorless to orange.) MeI (0.24 mL, 3.9 mmol) was then added dropwise as a solution in THF (10 mL). The reaction was complete in ten minutes as determined by TLC. The crude residue was purified by silica flash chromatography using 0-15% EtOAc/hexanes. MS m/e=292 (M+H)+.

reactant | 2-(4-Chloro-2-iodophenyl)acetonitrile | 3.9 mmol, 1.070 g | ClC1=CC(=C(C=C1)CC#N)I | C8H5ClIN
reactant | Sodium tert-butoxide | 7.7 mmol, 0.74 g | CC(C)([O-])C.[Na+]
reactant | MeI | 3.9 mmol, 0.24 mL | CI | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-2-iodophenyl)propanenitrile | ClC1=CC(=C(C=C1)C(C#N)C)I | C9H7ClIN
